US08242104B2
A solution of 8-chloro-2-[5-methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene (4 g, 10.4 mmol) in acetic acid (100 mL) was heated to 150° C. for 65 hours. The reaction was cooled, concentrated in vacuo and loaded onto an Isolute SCX-2 cartridge, washing with methanol and eluting with 2M ammonia in methanol. Basic fractions were combined and concentrated in vacuo, the resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 10% methanol in DCM) to give 2-[5-Methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-ol. LCMS: RT=2.25 min, [M+H]+=367.33. 1H NMR 300 MHz (DMSO-d): δ 8.40 (1H, br, s), 7.94 (1H, s), 5.85 (1H, s), 5.77 (1H, s), 5.73 (2H, m), 4.56 (2H, m), 4.49 (2H, m), 2.29 (3H, s)

reactant | 8-chloro-2-[5-methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene | 10.4 mmol, 4 g | ClC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)CC(F)(F)F)C=N1 | C15H12ClF3N6O
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-[5-Methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-ol | CC=1N=C(N(N1)CC(F)(F)F)C1=CN2CCOC3=C(C2=N1)C=NC(=C3)O | C15H13F3N6O2
